US04171976
By the procedure used in A, except that sodium 2,4-dinitrobenzenesulfonate was substituted for 3,5-dinitrobenzoic acid, a 16.5 g (85 percent yield) sample (m.p. 59°-61° C.) of bis(vinylsulfonyl)methane was obtained. A 2 percent by weight aqueous solution was made up (no insoluble material) and let stand for more than 10 months at room temperature. Analysis of the still clear solution by high pressure liquid chromatography (HPLC) showed a 1.6 percent concentration of bis(vinylsulfonyl)methane remaining. A sample of the dry compound was also kept at room temperature for more than 10 months. A fresh 2 percent by weight solution made from this sample was found to contain 1.8 percent bis(vinylsulfonyl)methane by HPLC analysis.

reactant | sodium 2,4-dinitrobenzenesulfonate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | 3,5-dinitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
product | bis(vinylsulfonyl)methane | 85 percent yield | C(=C)S(=O)(=O)CS(=O)(=O)C=C | C5H8O4S2
